US04533664
2.97 g (10 mmols) of methyl 2-n-propyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide and 1.3 g (10 mmols) of 2-amino-6-chloro-pyrazine were reacted in 150 ml of xylene analogous to Example 1, yielding 2.05 g (52% of theory) of N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-n-propyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide.

reactant | methyl 2-n-propyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 10 mmols, 2.97 g | C(CC)N1S(C2=C(C(=C1C(=O)OC)O)C=CC=C2)(=O)=O | C13H15NO5S
reactant | 2-amino-6-chloro-pyrazine | 10 mmols, 1.3 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-n-propyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 2.05 g, 52% | ClC1=CN=CC(=N1)NC(=O)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)CCC | C16H15ClN4O4S
